US05849930
Synthesis of 4-geranyloxybenzoic acid
To a solution of methyl geranyloxybenzoate (13.00 g) in methanol (50 ml) was added an aqueous solution (10 ml) of potassium hydroxide (3.90 g), After being stirred at room temperature for one night, the mixture was refluxed with heating for 1 hour. Concentrated hydrochloric acid was added to the reaction solution so as to acidified. Then, the resulting solution was extracted with chloroform. The extract was dried over sodium sulfate anhydride and then the solvent was evaporated under a vacuum. The residue was recrystallized from an n-hexane/ethyl acetate mixed solution, thereby yielding 9.77 g (71%) of the aimed compound.

reactant | methyl geranyloxybenzoate | 13.00 g | C(\C=C(/C)\CCC=C(C)C)OC1=C(C(=O)OC)C=CC=C1 | C18H24O3
reactant | potassium hydroxide | 10 ml, 3.90 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
product | 4-geranyloxybenzoic acid | 9.77 g, 71% | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
